US07344702B2
Synthesis of (4-tert-butylphenyl) ethane 1,2 diol
To a 100 ml round bottom flask is added 20 ml tert butanol, 20 ml of water and 5.6 g of AD-mix-β. The solution is stirred and cooled to 0 C. tert-butyl styrene (0.64 g, 4 mmol) is added to the mixture and the resulting solution is stirred overnight at 0 C. Solid sodium sulfite (6 g) is added and the mixture stirred for an additional 30 minutes. The solution is then extracted in ethyl acetate, washed with water and dried. The crude is then purified by flash chromatography (silica gel; ethyl acetate/hexanes) to afford the product.

reactant | tert butanol | 20 ml | C(C)(C)(C)O | C4H10O
reactant | AD-mix-β | 5.6 g | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | tert-butyl styrene | 4 mmol, 0.64 g | C(C)(C)(C)C=CC1=CC=CC=C1 | C12H16
reactant | sodium sulfite | 6 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 20 ml | O | H2O
product | (4-tert-butylphenyl) ethane 1,2 diol | C(C)(C)(C)C1=CC=C(C=C1)C(CO)O | C12H18O2
